US08039460B2
Step B: N-{(6S,9R)-6-(2,3-Difluorophenyl)-3-[1-(trifluoromethyl)cyclopropyl]-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a]azepin-9-yl}-4-(3-oxo-2,3-dihydropyridazin-4-yl)piperidine-1-carboxamide
Triethylamine (16 μL, 0.112 mmol) was added to a solution of the bis hydrochloride salt of (6S,9R)-6-(2,3-difluorophenyl)-3-[1-(trifluoromethyl)cyclopropyl]-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a]azepin-9-amine (20 mg, 0.045 mmol) and 1,1′-carbonyldiimidazole (13 mg, 0.079 mmol) in tetrahydrofuran (1.0 mL) at 0° C. After 20 min, additional 1,1′-carbonyldiimidazole (7.3 mg, 0.045 mmol) was added. After 30 min, 4-piperidin-4-ylpyridazin-3(2H)-one (10 mg, 0.056 mmol) and dichloromethane (1.0 mL) were added and the mixture was heated to 60° C. After 16 h, the reaction was allowed to cool to ambient temperature and concentrated. Purification by reverse phase HPLC (C-18, 10% acetonitrile/water→100% acetonitrile with 0.1% trifluoroacetic acid) gave the title compound (20 mg). MS 578.2315 (M+1).

reactant | Triethylamine | 0.112 mmol, 16 μL | C(C)N(CC)CC | C6H15N
reactant | (6S,9R)-6-(2,3-difluorophenyl)-3-[1-(trifluoromethyl)cyclopropyl]-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a]azepin-9-amine | 0.045 mmol, 20 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=NN2)C2(CC2)C(F)(F)F)N | C17H17F5N4
reactant | 1,1′-carbonyldiimidazole | 0.079 mmol, 13 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1,1′-carbonyldiimidazole | 0.045 mmol, 7.3 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-piperidin-4-ylpyridazin-3(2H)-one | 0.056 mmol, 10 mg | N1CCC(CC1)C=1C(NN=CC1)=O | C9H13N3O
solvent | tetrahydrofuran | 1.0 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 1.0 mL | ClCCl | CH2Cl2
product | N-{(6S,9R)-6-(2,3-Difluorophenyl)-3-[1-(trifluoromethyl)cyclopropyl]-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a]azepin-9-yl}-4-(3-oxo-2,3-dihydropyridazin-4-yl)piperidine-1-carboxamide | 20 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=NN2)C2(CC2)C(F)(F)F)NC(=O)N2CCC(CC2)C=2C(NN=CC2)=O | C27H28F5N7O2
